Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / Reglan
 
Attending: ___.
 
Chief Complaint:
preterm contractions
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ G1P0 at ___ presents with preterm ctx. Reports onset of 
ctx this afternoon, while shopping at outlets. Went home and 
attempted rest and snack with no improvement in ctx. Some ctx 
are painful and taking her breath away, but not consistently. 
Intensity has been about the same throughout the day, but ctx 
have become more intense while here in triage. Denies VB, LOF. 
Active FM. Denies fevers, chills, sweats, malaise, N/V, dysuria, 
hematuria, vaginal itching or vulvar irritation. Denies illicit 
drug use or abdominal trauma. 
 
Past Medical History:
PNC:
-___: ___ by ___ US
-Labs: O+/Ab-/RI/VI/RPRNR/HbsAg-/HIV-/GBS- 
-Screening: NIPT -FFS: wnl, girl
-GLT: deferred, 1wk FSBG wnl -Vaccines: s/p tdap ___ 
-___ (cMFM): cephalic, ant plac, nl AF, 2219g (47%) 
-___: cephalic, ant placenta, nl AF, BPP ___ 
-Issues:
#triage eval for PTC 3 weeks ago
#EIF, with low risk NIPT
#carrier for Ga___ disease, declined FOB testing
#hx gastric bypass #elevated AFP

ObHx: G1 current
GynHx: normal periods, no STIs, no abnl paps
PMH: obesity, hx gastric ulcer (none since stopped NSAIDs), hx 
recurrent c diff
PSH: gastric bypass, cholecystectomy 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
VS: 103/77, 79, 98.5
Gen: mildly uncomfortable with ctx, NAD, non-diaphoretic
Resp: nl resp effort
Abd: soft, gravid, no fundal tenderness SVE @ 0030: 
___ (last ext os 1/int os 
closed/long/posterior 2+ weeks ago)
SVE @ 0230: ___
SSE: deferred
Toco: ___
FHT: 140/mod var/+accels/-decels
TAUS: vtx
 
Pertinent Results:
___ WBC-10.8 RBC-4.14 Hgb-12.1 Hct-35.6 MCV-86 Plt-254
___ WBC-9.5 RBC-3.99 Hgb-11.7 Hct-35.6 MCV-89 Plt-251
___ ALT-10 AST-16 LD(LDH)-148 Lipase-25
___ LD(LDH)-252

___ BLOOD ___ Comment-GREEN TOP
___ BLOOD Lactate-1.7

___ URINE Blood-NEG Nitrite-NEG Protein-TR Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ URINE RBC-1 WBC-5 Bacteri-FEW Yeast-NONE Epi-2

___ URINE bnzodzp-NEG barbitr-NEG opiates-NEG cocaine-NEG 
amphetm-NEG oxycodn-NEG mthdone-NEG

URINE CULTURE (Final ___: 
 MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH
 SKIN AND/OR GENITAL CONTAMINATION
 
Brief Hospital Course:
___ G1 admitted at 35w6d with preterm contractions. She was 
afebrile and without any evidence of infection or abruption. 
Fetal testing was reassuring. She reported persistent painful 
contractions, however, made very little change over time. She 
underwent therapeutic rest with morphine and was monitored on 
the antepartum floor. She continued to required intermittent 
doses of narcotics due to her painful contractions with minimal 
cervical change. On HD#3, she reported right sided abdominal 
pain in between her contractions and was mildly tender on exam. 
She remained afebrile and tolerating a regular diet throughout 
the admission. ACS was consulted and recommended an MRI, 
however, Ms ___ declined. She was discharged home on ___ 
with precautions and will have close outpatient follow up. Of 
note, she had a reassuring ultrasound in the CMFM on ___.
 
Medications on Admission:
Ca
Vit D3
B12
omeprazole
PNV
 
Discharge Medications:
Ca
Vit D3
B12
omeprazole
PNV
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
preterm contractions
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

You were admitted to the Antepartum service with painful 
contractions. You have been monitored closely and underwent 
multiple cervical exams. We do not think you are in active 
labor. Given your history of gastric bypass, we consulted 
General Surgery who recommended an MRI. You have declined the 
MRI. We feel that you are safe for discharge home. Please call 
Dr. ___ office with any further questions or concerns. 
 
Followup Instructions:
___